US04703046
A mixture of dimethylformamide (0.3 ml.), phosphoryl chloride (0.35 ml.) and dry ethyl acetate (1.5 ml.) was stirred for 30 minutes under ice-cooling. Dry ethyl acetate (1.5 ml.) and 2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 1.0 g.) were added to the solution and stirred for 50 minutes under ice-cooling. The solution was added dropwise to a chilled solution of 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (1.1 g.) and trimethylsilylacetamide (2.5 g.) in dry ethyl acetate (30 ml.), and stirred at -20° to -10° C. for an hour. To the reaction mixture were added ethyl acetate (30 ml.) and water 20 ml., and the insoluble substance was filtered off. The ethyl acetate layer was separated from the filtrate, and the aqueous layer was washed with ethyl acetate. The washings and the ethyl acetate layer were combined together, washed with a saturated aqueous sodium chloride, dried over magnesium sulfate and then evaporated in vacuo. The residue was pulverized with diethyl ether, and the precipitates were collected by filtration, washed with diethyl ether and dried to give 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer, 1.2 g.).

reactant | phosphoryl chloride | 0.35 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetic acid | 1.0 g | C(=O)NC=1SC(=C(N1)C(C(=O)O)=NOC)Br | C7H6BrN3O4S
reactant | 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 1.1 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C11H12N4O3S3
reactant | trimethylsilylacetamide | 2.5 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1.5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1.5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 1.2 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O)=NOC)Br | C18H16BrN7O6S4
